US06706716B2
8-{2-[4-(2,6-Difluorophenyl)piperazino]ethyl}-8-azaspiro[4.5]decane-7,9-dione
A mixture of 1-(2,6-difluorophenyl)piperazine (23.8 mg, 0.120 mmol) and 8-(2-chloroethyl)-8-azaspiro[4.5]decane-7,9-dione(20 mg, 0.087 mmol) was heated with stirring at 160° C. for 5 hours. The residue was purified by preparative HPLC (see Example 8 for conditions), giving (after removal of the solvent) the title compound as a pale yellow oil (8.9 mg, 0.023 mmol, 26%): ESI-MS m/z 392 (MH+).

reactant | 1-(2,6-difluorophenyl)piperazine | 0.120 mmol, 23.8 mg | FC1=C(C(=CC=C1)F)N1CCNCC1 | C10H12F2N2
reactant | 8-(2-chloroethyl)-8-azaspiro[4.5]decane-7,9-dione | 0.087 mmol, 20 mg | ClCCN1C(CC2(CCCC2)CC1=O)=O | C11H16ClNO2
product | 8-{2-[4-(2,6-Difluorophenyl)piperazino]ethyl}-8-azaspiro[4.5]decane-7,9-dione | 0.023 mmol, 8.9 mg, 26% | FC1=C(C(=CC=C1)F)N1CCN(CC1)CCN1C(CC2(CCCC2)CC1=O)=O | C21H27F2N3O2
